US04526894
Ethyl anthranilate (1.44 grams) and 2.2 grams of ethyl 3,4-dimethoxybenzoylacetate are dissolved in 100 ml of xylene and heated to reflux for five hours with 200 mg of sodium ethoxide. After cooling, crystals are separated out and collected by filtration and recrystallized from methanol to give 0.5 grams of 3-(3,4-dimethoxybenzoyl)-4-hydroxy-2-quinolone, pale yellow needles, melting point 235° to 236° C.

reactant | Ethyl anthranilate | 1.44 grams | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | ethyl 3,4-dimethoxybenzoylacetate | 2.2 grams | COC=1C=C(C(=O)CC(=O)OCC)C=CC1OC | C13H16O5
reactant | sodium ethoxide | 200 mg | [O-]CC.[Na+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(3,4-dimethoxybenzoyl)-4-hydroxy-2-quinolone | 0.5 grams | COC=1C=C(C(=O)C=2C(NC3=CC=CC=C3C2O)=O)C=CC1OC | C18H15NO5
